US06727264B1
N-{3-[1-(4-{[(3,5-DICHLOROANILINO)CARBONYL]AMINO}BUTYL)-4-PIPERIDINYL]PHENYL}-2-METHYLPROPANAMIDE:
Prepared by Procedure Q2 (THF/DCM, 1:3) and Scheme AT using N-(3-{1-[4-(formylamino)butyl]-4-piperidinyl}phenyl)-2-methylpropanamide and 3,5-dichlorophenyl isocyanate: ESMS m/e: 505.0 (M+H)+.

reactant | N-(3-{1-[4-(formylamino)butyl]-4-piperidinyl}phenyl)-2-methylpropanamide | C(=O)NCCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O | C20H31N3O2
reactant | 3,5-dichlorophenyl isocyanate | ClC=1C=C(C=C(C1)Cl)N=C=O | C7H3Cl2NO
solvent | THF DCM | C1CCOC1.C(Cl)Cl
product | N-{3-[1-(4-{[(3,5-DICHLOROANILINO)CARBONYL]AMINO}BUTYL)-4-PIPERIDINYL]PHENYL}-2-METHYLPROPANAMIDE | ClC=1C=C(NC(=O)NCCCCN2CCC(CC2)C=2C=C(C=CC2)NC(C(C)C)=O)C=C(C1)Cl | C26H34Cl2N4O2
